US08871760B2
To a room temperature solution of 5-(4-fluoro-phenyl)-thiomorpholine-3-thione (710 mg, 3.2 mmol) in THF (20 mL) was added methyl iodide (1.1 mL, 16.7 mmol). The mixture was stirred at room temperature in the dark 18 hours, then concentrated under reduced pressure to give crude 3-(4-fluoro-phenyl)-5-methylsulfanyl-3,6-dihydro-2H-[1,4]thiazine as a hydroiodide salt, which was used directly in without further purification.

reactant | 5-(4-fluoro-phenyl)-thiomorpholine-3-thione | 3.2 mmol, 710 mg | FC1=CC=C(C=C1)C1CSCC(N1)=S | C10H10FNS2
reactant | methyl iodide | 16.7 mmol, 1.1 mL | CI | CH3I
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(4-fluoro-phenyl)-5-methylsulfanyl-3,6-dihydro-2H-[1,4]thiazine | FC1=CC=C(C=C1)C1CSCC(=N1)SC | C11H12FNS2
